US04472433
A mixture of ethyl 2-(2-nitro-3-chlorophenyl)acetate (10 g.), 2,4-dichlorophenol (7.4 g.), anhydrous potassium carbonate (8.6 g.) and cupric oxide (1 g.) was treated in a similar manner to the above to give 2-[2-nitro-3-(2,4-dichlorophenoxy)phenyl]acetic acid (2.4 g.).

reactant | ethyl 2-(2-nitro-3-chlorophenyl)acetate | 10 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)CC(=O)OCC | C10H10ClNO4
reactant | 2,4-dichlorophenol | 7.4 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 8.6 g | C([O-])([O-])=O.[K+].[K+]
product | 2-[2-nitro-3-(2,4-dichlorophenoxy)phenyl]acetic acid | 2.4 g | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=C(C=C1)Cl)Cl)CC(=O)O | C14H9Cl2NO5
